US05359066
A mixture of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2-tert-butoxycarbonyl-2-methylhydrazino)acrylate (2.00 g) and potassium fluoride (0.31 g) in dimethylformamide(5 ml) was heated at 60°~65° C. for one hour, and refluxed for 5 hours. The mixture was poured into ice-water (60 ml) to give a solid. The solid was collected by filtration and dried over phosphorus pentaoxide under reduced pressure to give ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate (1.25 g).

reactant | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-(2-tert-butoxycarbonyl-2-methylhydrazino)acrylate | 2.00 g | FC1=C(C(=O)C(C(=O)OCC)=CNN(C)C(=O)OC(C)(C)C)C=C(C(=C1F)F)F | C18H20F4N2O5
reactant | potassium fluoride | 0.31 g | [F-].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.25 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OCC)=O | C13H11F3N2O3
